US04080335
2,2-Dimethyl-7-dimethylaminoethyloxy-4-(3-trifluoromethylphenyl)chroman hydrochloride
To a solution of 2,2-dimethyl-7-dimethylaminoethyloxy-4-(3-trifluoromethylphenyl)-2H-chromene hydrochloride (4.96g) in ethanol (75 ml) was added 10% palladium on charcoal. The mixture was hydrogenated under hydrogen (1 atmosphere pressure) at ambient temperature (about 18° C) until no further hydrogen was taken up. The mixture was filtered and the solvent removed from the resulting filtrate under reduced pressure to yield the title compound (3.7g), m.p. 188°-190° C.

reactant | 2,2-dimethyl-7-dimethylaminoethyloxy-4-(3-trifluoromethylphenyl)-2H-chromene hydrochloride | 4.96g | Cl.CC1(OC2=CC(=CC=C2C(=C1)C1=CC(=CC=C1)C(F)(F)F)OCCN(C)C)C
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 75 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 2,2-Dimethyl-7-dimethylaminoethyloxy-4-(3-trifluoromethylphenyl)chroman hydrochloride | 3.7g | Cl.CC1(OC2=CC(=CC=C2C(C1)C1=CC(=CC=C1)C(F)(F)F)OCCN(C)C)C | InChI=1S/C22H26F3NO2.ClH/c1-21(2)14-19(15-6-5-7-16(12-15)22(23,24)25)18-9-8-17(13-20(18)28-21)27-11-10-26(3)4;/h5-9,12-13,19H,10-11,14H2,1-4H3;1H
